US04452851
Vilsmeier reagent prepared from N,N-dimethylformamide (0.5 ml) and phosphorus oxychloride (0.58 ml) was suspended in dry tetrahydrofuran (20 ml). To a suspension was added 2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid (syn isomer, 2 g) under ice-cooling with stirring, and then the solution was stirred at the same temperature for an hour to prepare the activated acid solution. To the solution of benzhydryl 7-amino-3-methylthio-3-cephem-4-carboxylate (2.0 g) and trimethylsilylacetamide (5.0 g) in methylene chloride was added the activated acid solution obtained above all at once at -20° C., and then the mixed solution was stirred at -20° to -10° C. for an hour. Water and ethyl acetate were added to the resultant solution. The solution was adjusted to pH 7.5 with an aqueous saturated solution of sodium bicarbonate. The organic layer was washed with an aqueous saturated solution of sodium chloride, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give benzhydryl 7-[2-(2-formamidothiazol- 4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer, 2.4 g). mp. 151°-157° C.

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 0.58 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid | 2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C12H15N3O6S
reactant | benzhydryl 7-amino-3-methylthio-3-cephem-4-carboxylate | 2.0 g | NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H20N2O2S2
reactant | trimethylsilylacetamide | 5.0 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-(2-formamidothiazol- 4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate | 2.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C33H33N5O7S3
